US06225320B1
3-Nitro-6-trifluoromethyl-2(1H)-pyridone
To ethanol (1 L) was slowly added sodium metal (4.83 g, 0.21 mol). Once the metal had dissolved, nitroacetamide (21.8 g, 0.21 mol) and (2-ethyloxyvinyl) trifluoromethyl ketone (35 g, 0.21 mol) were added, and the suspension formed was heated at reflux for 16 hrs. The resulting mixture was acidified with aqueous hydrochloric acid (1 M) and concentrated in vacuo. The residue was taken up in ethyl acetate (1 L) and the solid formed removed by filtration. The filtrate was then concentrated and the residue purified by silica chromatography to give the product as an orange solid (25.9 g, 0.12 mol, 59% yield).

reactant | sodium | 0.21 mol, 4.83 g | [Na] | Na
reactant | nitroacetamide | 0.21 mol, 21.8 g | [N+](=O)([O-])CC(=O)N | C2H4N2O3
reactant | (2-ethyloxyvinyl) trifluoromethyl ketone | 0.21 mol, 35 g | FC(F)(F)C(=O)C=COCC | C6H7F3O2
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | ethanol | 1 L | C(C)O | C2H6O
product | 3-Nitro-6-trifluoromethyl-2(1H)-pyridone | 0.12 mol, 25.9 g, 59% yield | [N+](=O)([O-])C=1C(NC(=CC1)C(F)(F)F)=O | C6H3F3N2O3
